US04395409
7-Chloro-2-(2-trifluoromethylphenylcarbamoyloxyamino)-5-phenyl-3H-1,4-benzodiazepine
2 g of 7-chloro-2-hydroxyamino-5-phenyl-3H-1,4-benzodiazepine are reacted with 1 g of 2-trifluoromethylphenyl isocyanate, analogously to Experiment 1a. Yield: 1.8 g of colorless crystals of melting point 190° C. (from methanol/dimethylformamide).

reactant | 7-chloro-2-hydroxyamino-5-phenyl-3H-1,4-benzodiazepine | 2 g | ClC=1C=CC2=C(C(=NCC(=N2)NO)C2=CC=CC=C2)C1 | C15H12ClN3O
reactant | 2-trifluoromethylphenyl isocyanate | 1 g | FC(C1=C(C=CC=C1)N=C=O)(F)F | C8H4F3NO
solvent | methanol dimethylformamide | CO.CN(C=O)C
product | 7-Chloro-2-(2-trifluoromethylphenylcarbamoyloxyamino)-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NOC(NC2=C(C=CC=C2)C(F)(F)F)=O)C2=CC=CC=C2)C1 | C23H16ClF3N4O2
